US04230707
From 5.1 g (0.024 mol) of 2-amino-5-butyl-3-thiophenecarboxylic acid, methyl ester and 4.1 g (0.024 mol) of 6-chloro-3-pyridinecarboxylic acid, methyl ester (Alfred Bader Chemical Company), following the procedure of Example 7, there is obtained 3.2 g of 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester; mp 137°-138° C. after recrystallization from methanol.

reactant | 2-amino-5-butyl-3-thiophenecarboxylic acid, methyl ester | 0.024 mol, 5.1 g | NC=1SC(=CC1C(=O)OC)CCCC | C10H15NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid, methyl ester | 0.024 mol, 4.1 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
product | 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester | 3.2 g | C(CCC)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)OC)S1 | C16H16N2O3S
